US05872137
To a solution of 0.30 g of 4-(3,3-dichloro-2-propenyloxy)-2,6-dichlorophenol, 0.16 g of 4-phenyl-1-butanol and 0.27 g of triphenylphosphine dissolved in 10 ml of tetrahydrofuran was added dropwise a solution of 0.21 g of diethylazodicarboxylate dissolved in 5 ml of tetrahydrofuran was added dropwise, while stirring at room temperature. After stirring at room temperature for 24 hours, the reaction mixture was concentrated to obtain a residue. The residue was subjected to silica gel chromatography, which afforded 0.32 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-phenylbutyloxy)benzene (73% yield), nD26.0 1.5716.

reactant | 4-(3,3-dichloro-2-propenyloxy)-2,6-dichlorophenol | 0.30 g | ClC(=CCOC1=CC(=C(C(=C1)Cl)O)Cl)Cl | C9H6Cl4O2
reactant | 4-phenyl-1-butanol | 0.16 g | C1(=CC=CC=C1)CCCCO | C10H14O
reactant | triphenylphosphine | 0.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.21 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-phenylbutyloxy)benzene | 0.32 g, 73% yield | ClC=1C=C(C=C(C1OCCCCC1=CC=CC=C1)Cl)OCC=C(Cl)Cl | C19H18Cl4O2
